US05212164
A. (E)-7,11-Dimethyl-6,10-dodecadien-2-ynoic acid, methyl ester
A solution of 1.15 g (6.54 mmol) of Example 16, Part A acetylene in 15 mL of THF at -78° C. under argon was treated with 4.5 mL (7.19 mmol) of 1.6M n-butyllithium in hexanes over 10 minutes to give a purple solution. The reaction was allowed to stir at -78° C. for 1 hour when 1 mL (13.1 mmol) of methyl chloroformate was added to give a yellow solution. The reaction was allowed to stir at -78° C. for 1 hour when it was quenched with saturated NH4Cl and diluted with diethyl ether. The ether extract was washed with water, saturated NaHCO3, brine, dried over MgSO4 and evaporated to provide 1.73 g of a crude yellow oil. Flash chromatography was performed on 180 g of silica gel packed and loaded with 25:1 hexane/EtOAc and eluted with 20:1 hexane/EtOAc collecting 20 mL fractions. Fractions 59 to 83 were combined and evaporated to provide 1.34 g (87%) of title compound in the form of a pale yellow oil.

reactant | acetylene | C#C | C2H2
reactant | n-butyllithium | 7.19 mmol, 1.6M, 4.5 mL | C(CCC)[Li]
reactant | methyl chloroformate | 13.1 mmol, 1 mL | ClC(=O)OC | C2H3ClO2
reactant | hexane EtOAc | CCCCCC.CCOC(=O)C
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | (E)-7,11-Dimethyl-6,10-dodecadien-2-ynoic acid, methyl ester | 1.34 g, 87% | C\C(=C/CCC#CC(=O)OC)\CCC=C(C)C | C15H22O2
